US04831175
Methyl p-nitrophenylalanine hydrochloride
Dry methanol (200 ml) was saturated with HCl(g) in a two-necked round bottom flask cooled to -10° C. p-Nitrophenylalanine (10.0 g, 47.6 mmol) was added in one portion and left to stir for about 18 hours, the solution was evaporated to near dryness on a rotary evaporator and the precipitated product collected in a Buchner funnel. After drying under vacuum at about 50° C., the yield was 10.97 grams (88.3%). A TCL (thin layer chromatography) of the free amino ester run in CHCl3 :MeOH (4:1) revealed an Rf =0.85-0.88. 1H NMR (220 MHz, D2O, pH 1.5) 8.20 (d, 2 J=10.0), 7.53 (d, 2, J=10.0), 4.55 (t, 1, J=5.00), 3.84 (s, 3), 3.43 (m, 2); CI-MS 225 ((M+1)/z).Anal. Calcd. for C10H13N2O4Cl: C, 46.07; H, 5.03; N, 10.74; Cl, 13.60. Found: C, 45.87; H, 5.08; N, 10.48; Cl, 13.58.

reactant | HCl | Cl | ClH
reactant | p-Nitrophenylalanine | 47.6 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | methanol | 200 ml | CO | CH4O
product | Methyl p-nitrophenylalanine hydrochloride | Cl.CN[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | InChI=1S/C10H12N2O4.ClH/c1-11-9(10(13)14)6-7-2-4-8(5-3-7)12(15)16;/h2-5,9,11H,6H2,1H3,(H,13,14);1H/t9-;/m0./s1
